US05162321
1-(7-Methoxy-1-naphthyl)-4-(2-tosylaminoethyl)-piperazine hydrochloride
This compound was prepared according to the method described in Example 1, Stage E, from 1-(7-methoxy-1-naphthyl)-4-(2-aminoethyl)piperazine and tosyl chloride in solution in chloroform.

reactant | 1-(7-methoxy-1-naphthyl)-4-(2-aminoethyl)piperazine | COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCN | C17H23N3O
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(7-Methoxy-1-naphthyl)-4-(2-tosylaminoethyl)-piperazine hydrochloride | Cl.COC1=CC=C2C=CC=C(C2=C1)N1CCN(CC1)CCNS(=O)(=O)C1=CC=C(C)C=C1 | InChI=1S/C24H29N3O3S.ClH/c1-19-6-10-22(11-7-19)31(28,29)25-12-13-26-14-16-27(17-15-26)24-5-3-4-20-8-9-21(30-2)18-23(20)24;/h3-11,18,25H,12-17H2,1-2H3;1H
